US08110585B2
7-chloro-2-methyl-2H-indazole-4-carbaldehyde
To a solution of oxalyl chloride (2.93 mL, 34.6 mmol) in 30 dichloromethane (50 mL) was added dimethyl sulfoxide (3.68 mL, 51.9 mmol) at −78° C. To the reaction mixture was added a solution of (7-chloro-2-methyl-2H-indazol-4-yl)methanol (3.40 g, 17.3 mmol) in dichloromethane (10 mL), and the mixture was stirred for 2 hr. To the reaction mixture was added triethylamine (14.6 mL, 104 mmol) at −78° C., and the mixture was stirred for 30 min. The reaction mixture was warmed to room temperature, and the mixture was stirred at room temperature for 4 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the aqueous layer was extracted with dichloromethane. The combined extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained crude product was purified by recrystallization (hexane/dichloromethane) to give the title compound (3.07 g, yield 91%).

reactant | oxalyl chloride | 34.6 mmol, 2.93 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 51.9 mmol, 3.68 mL | CS(=O)C | C2H6OS
reactant | (7-chloro-2-methyl-2H-indazol-4-yl)methanol | 17.3 mmol, 3.40 g | ClC1=CC=C(C2=CN(N=C12)C)CO | C9H9ClN2O
reactant | triethylamine | 104 mmol, 14.6 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 7-chloro-2-methyl-2H-indazole-4-carbaldehyde | 3.07 g, yield 91% | ClC1=CC=C(C2=CN(N=C12)C)C=O | C9H7ClN2O
